US07214824B2
31(d): [4-tert-Butyl-3-(2-methoxyethoxy)phenoxy]acetic acid
To a methanol (3 mL) solution of ethyl [4-tert-butyl-3-(2-methoxyethoxy)phenoxy]acetate (260 mg, 0.84 mmol) was added 2M potassium hydroxide solution (1 ml) at ambient temerature. The stirred mixture was refluxed at 90° C. for 30 minutes. The reaction mixture was then quenched with saturated aqueous solution of ammonium chloride and then crude products were extracted with ethyl acetate The organic layer was then washed with brine, dried over sodium sulfate. After filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give a residue, which was applied to recrystallization from hexane to furnish 0.24 g (100% yield) of the title compound as a white solid.

reactant | ethyl [4-tert-butyl-3-(2-methoxyethoxy)phenoxy]acetate | 0.84 mmol, 260 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)OCC)C=C1)OCCOC | C17H26O5
reactant | potassium hydroxide | 2M, 1 ml | [OH-].[K+]
solvent | methanol | 3 mL | CO | CH4O
product | [4-tert-Butyl-3-(2-methoxyethoxy)phenoxy]acetic acid | 0.24 g, 100% yield | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1)OCCOC | C15H22O5
